US05386047
To a 1 liter, 3-necked glass reaction flask equipped with a mechanical stirrer, pressure compensating addition funnel and thermometer was added 1,4-dioxane (300 mls), zinc chloride (62.7 g; 0.46 moles), neopentyl cyanoacetate (116.25 g; 0.75 moles) and 1 ml of a solution of 1,4-hydroquinone, prepared by dissolving 1.22 g 1,4-hydroquinone in 100 mls 1,4-dioxane. The mixture was stirred and cooled by means of an ice bath, while a solution of acrolein (52.54 g; 0.94 moles) in 1,4-dioxane (200 mls) was added slowly from the addition funnel. The rate of addition was adjusted such that the reaction temperature did not exceed 40° C. After the reaction exotherm had subsided, the cooling bath was removed and the mixture stirred for a further 5 days. The solvent was removed by distillation under reduced pressure at 28° C. and 45 mbar and the reaction product was transferred to a 2-liter flask. Hexane (900 mls) was added and a yellow polymeric precipitate was formed. The hexane solution was decanted from the polymer and washed 3 times with 1200 ml portions of cold 0.1M hydrochloric acid solution, dried over anhydrous sodium sulfate and the solvent removed by distillation under reduced pressure to yield crude neopentyl 2-cyanopenta-2,4-dienoate (54.95 g; 38%) as a low viscosity orange colored liquid. The structure of the monomer was confirmed by proton NMR and IR analysis. The monomer was stabilized by the addition of 0.6 mg (approximately 10 ppm) of methane sulfonic acid. This monomer was used without further purification in the preparation of the BCPP-TMDS compositions.

reactant | neopentyl cyanoacetate | 0.75 moles, 116.25 g | C(#N)CC(=O)OCC(C)(C)C | C8H13NO2
reactant | acrolein | 0.94 moles, 52.54 g | C(=O)C=C | C3H4O
solvent | 1,4-dioxane | 100 mls | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 200 mls | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 0.46 moles, 62.7 g | [Cl-].[Zn+2].[Cl-]
solvent | 1,4-dioxane | 300 mls | O1CCOCC1 | C4H8O2
product | neopentyl 2-cyanopenta-2,4-dienoate | 54.95 g, 38% | C(#N)C(C(=O)OCC(C)(C)C)=CC=C | C11H15NO2
